US05428046
a) 4-((2-Phenylethyl)aminocarbonyl)benzenesulfonamide
20.1 g (0.1 mol) of 4-carboxy-benzenesulfonamide were suspended in 300 ml of anhydrous tetrahydrofuran, and 15.2 ml (0.11 mol) of triethylamine were added dropwise at 0° C., while stirring. After 30 minutes, 10.5 ml (0.11 mol) of ethyl chloroformate were added dropwise at 0° C., the mixture was stirred at this temperature for 1 hour and cooled to -10° C., and 12.1 g (0.1 mol, 12.5 ml) of 2-phenylethylamine in 30 ml of anhydrous tetrahydrofuran were added dropwise. After 1 hour at 0° C., the mixture was warmed to 20° C. and concentrated in vacuo and the solid residue was treated with water, filtered off with suction and recrystallized from ethanol to give 20.4 g of product, melting point 243° to 245° C.

reactant | 4-carboxy-benzenesulfonamide | 0.1 mol, 20.1 g | C(=O)(O)C1=CC=C(C=C1)S(=O)(=O)N | C7H7NO4S
reactant | triethylamine | 0.11 mol, 15.2 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.11 mol, 10.5 ml | ClC(=O)OCC | C3H5ClO2
reactant | 2-phenylethylamine | 0.1 mol, 12.5 ml, 12.1 g | C1(=CC=CC=C1)CCN | C8H11N
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-((2-Phenylethyl)aminocarbonyl)benzenesulfonamide | 20.4 g | C1(=CC=CC=C1)CCNC(=O)C1=CC=C(C=C1)S(=O)(=O)N | C15H16N2O3S
